US06262272B1
(4-N itrobenzyl)-methylcarbamic acid tert-butyl ester
To a solution of (tBuO2C)2O (24.9 g, 114 mmol) in 100 mL EtOAc was added dropwise a solution of (4-nitrobenzyl)-methylamine (19.0 g, 114 mmol) (J. Chem. Soc. 1925, 127, p. 1814) in 19 mL EtoAc. The resulting solution was stirred at room temperature or 60 min. then poured into 100 mL water. The organic phase was separated, dried over MgSO4, filtered, and concentrated to provide the title compound as a pale yellow oil (30.0 g, 113 mmol, 99% yield):

reactant | (tBuO2C)2O | 114 mmol, 24.9 g | O(C(OC(C)(C)C)=O)C(OC(C)(C)C)=O | C10H18O5
reactant | (4-nitrobenzyl)-methylamine | 114 mmol, 19.0 g | [N+](=O)([O-])C1=CC=C(CNC)C=C1 | C8H10N2O2
reactant | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (4-N itrobenzyl)-methylcarbamic acid tert-butyl ester | 113 mmol, 30.0 g, 99% yield | C(C)(C)(C)OC(N(C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H18N2O4
